US05143928
A mixture of 3,5-di-tert-butyl-4-hydroxybenzaldehyde (19.0 g, 81 mmols), 1-methyl-2-thioxo-4-imidazolidinone (10.6 g, 81 mmols) and beta-alanine (4.7 g, 53 mmols) in acetic acid (150 ml) is stirred under an inert atmosphere and heated to reflux. After 5 hours the mixture is allowed to cool, and is stirred into water (1.5 L). After an hour the product is filtered off, washed three times with water, and dried. Recrystallization from acetonitrile gave the 5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-1-methyl-2-thioxo-4-imidazolidinone (17.5 g), mp 242°-244° C.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 81 mmols, 19.0 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | 1-methyl-2-thioxo-4-imidazolidinone | 81 mmols, 10.6 g | CN1C(NC(C1)=O)=S | C4H6N2OS
reactant | beta-alanine | 53 mmols, 4.7 g | NCCC(=O)O | C3H7NO2
reactant | water | 1.5 L | O | H2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-1-methyl-2-thioxo-4-imidazolidinone | 17.5 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(N1C)=S)=O | C19H26N2O2S
